US05716984
(1RS, 2SR, 3RS)-3-[2-[(4-Carboxypyridin-3-yl)oxy]-4- methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate disodium salt
To a solution of Methyl (1RS, 2SR, 3RS)-3-[2-[(4-formylpyridin-3-yl)oxy]-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (128 mg, 0.24 mmol) in t-BuOH (10 mL) was added a solution of NaClO2 (34 mg, 0.28 mmol) and NH2SO3H (40 mg, 0.42 mmol) in water (6 mL). The reaction mixture was stirred at room temperature for 2 h and it was partitioned between water and ethyl acetate. The ethyl acetate extract was washed with water and brine and dried (Mg2SO4). The solvent was removed in vacuo. The residue was purified by flash column chromatography (silica gel, 25% ethyl acetate/hexanes containing 5% of acetic acid) to afford the title compound (90 mg, 69%).

reactant | 3-[2-[(4-formylpyridin-3-yl)oxy]-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.24 mmol, 128 mg | C(=O)C1=C(C=NC=C1)OC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)[O-]
reactant | NaClO2 | 0.28 mmol, 34 mg | [O-]Cl=O.[Na+]
reactant | NH2SO3H | 0.42 mmol, 40 mg | NS(=O)(=O)O | H3NO3S
solvent | t-BuOH | 10 mL | CC(C)(C)O | C4H10O
solvent | water | 6 mL | O | H2O
product | 3-[2-[(4-Carboxypyridin-3-yl)oxy]-4- methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate disodium salt | 90 mg, 69% | [Na+].[Na+].C(=O)(O)C1=C(C=NC=C1)OC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)[O-].C(=O)(O)C2=C(C=NC=C2)OC2=C(C=CC(=C2)OC)C2C(C(C1=CC=C(C=C21)OCCC)C2=CC1=C(C=C2)OCO1)C(=O)[O-] | InChI=1S/2C33H29NO9.2Na/c2*1-3-12-40-20-6-7-21-24(14-20)30(31(33(37)38)29(21)18-4-9-25-27(13-18)42-17-41-25)22-8-5-19(39-2)15-26(22)43-28-16-34-11-10-23(28)32(35)36;;/h2*4-11,13-16,29-31H,3,12,17H2,1-2H3,(H,35,36)(H,37,38);;/q;;2*+1/p-2
